US08461328B2
To a solution of oxalyl chloride (665.5 mg, 5.24 mmol) in anhydrous dichloromethane (40 mL) was added anhydrous dimethylsulfoxide (0.44 mL, 9.12 mmol) at −78° C. under nitrogen, followed by stirring for 15 minutes. Then the reaction temperature was warmed to −20° C. and a solution of 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanol (750 mg, 1.94 mmol) in anhydrous dichloromethane (10 mL)was added dropwise. The mixture was stirred at −20° C. for 15 minutes and warmed to room temperature. Triethylamine (2.15 g, 19.4 mmol) was added and the mixture was stirred for 90 minutes. The reaction mixture was quenched with water and extracted with ethyl acetate. The extracts were dried over sodium sulfate and concentrated under reduced pressure to give the crude product, which was crystallized form ethanol to give 600 mg (78%) of 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanone as a solid. 1H NMR (400 MHz, CDCl3) δ: 9.29 (s, 1H), 8.24-8.22 (m, 3H), 7.81-7.64 (m, 4H), 5.67-5.65 (m, 1H), 2.91-2.83 (m, 2H), 2.52-2.49 (m, 6H),

reactant | oxalyl chloride | 5.24 mmol, 665.5 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 9.12 mmol, 0.44 mL | CS(=O)C | C2H6OS
reactant | 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanol | 1.94 mmol, 750 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CCC(CC1)O | C19H19N5O3S
reactant | Triethylamine | 19.4 mmol, 2.15 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanone | 600 mg, 78% | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CCC(CC1)=O | C19H17N5O3S
